US05039333
Preparation of Sodium 5-(1,3-dioxolan-2-yl)-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate
5-(1,3-Dioxolan-2-yl)-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinic acid (0.507 g, 0.00152 mol), sodium bicarbonate (0.12 g, 0.00143 mol), water and tetrahydrofuran is heated at reflux temperature for 1 hour. Concentration in vacuo yields a solid which is triturated with ether to give the title compound as an orange solid (0.39 g, 72%), mp 209°-210° C., identified by IR and NMR spectral analyses.

reactant | 5-(1,3-Dioxolan-2-yl)-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinic acid | 0.00152 mol, 0.507 g | O1C(OCC1)C=1C=NC(=C(C(=O)O)C1)C=1NC(C(N1)(C)C(C)C)=O | C16H19N3O5
reactant | sodium bicarbonate | 0.00143 mol, 0.12 g | C([O-])(O)=O.[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Sodium 5-(1,3-dioxolan-2-yl)-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate | 0.39 g, 72% | O1C(OCC1)C=1C=NC(=C(C(=O)[O-])C1)C=1NC(C(N1)(C)C(C)C)=O.[Na+] | InChI=1S/C16H19N3O5.Na/c1-8(2)16(3)15(22)18-12(19-16)11-10(13(20)21)6-9(7-17-11)14-23-4-5-24-14;/h6-8,14H,4-5H2,1-3H3,(H,20,21)(H,18,19,22);/q;+1/p-1
